US04556717
6.2 g of the 1-[2-(2,4-dichlorophenyl)-pentyl-1,2-diformylhydrazine obtained according to Example 14 are heated, without purification, in 50 ml of formamide at 170° C. for 6 hours. Chromatography of the product obtained yields 1-[2-(2,4-dichlorophenyl)-pentyl]-1H-1,2,4-triazole, the 1H-NMR spectrum of which agrees with the 1H-NMR spectrum of the same compound described in Example 12.

reactant | 2-(2,4-dichlorophenyl)-pentyl-1,2-diformylhydrazine | ClC1=C(C=CC(=C1)Cl)C(CN(NC=O)C=O)CCC | C13H16Cl2N2O2
reactant | formamide | 50 ml | C(=O)N | CH3NO
product | 1-[2-(2,4-dichlorophenyl)-pentyl]-1H-1,2,4-triazole | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)CCC | C13H15Cl2N3
